US08426411B2
To a solution of N-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)-2-oxooxazolidine-3-sulfonamide (0.200 g, 0.261 mmol, prepared from 5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methanamine hydrochloride (WO2009152133) and (1S,2R,4S)-4-acetamido-2-methylcyclopentanecarboxylic acid [prepared from ethyl 4-amino-2-methyl-cyclopentanecarboxylate (WO2009152133) using G, AA, and Z] using H, OO, BB, and ZZ) and (R)-2-trifluoromethylpyrrolidine (0.055 g, 0.392 mmol) in MeCN (1.4 mL) was added TEA (0.073 mL, 0.523 mmol). The reaction was irradiated in a CEM microwave at about 120° C. for about 0.5 h. The reaction mixture was cooled to ambient temperature and concd under reduced pressure to afford a residue. The crude material was purified by silica gel chromatography eluting with a gradient of 0-70% EtOAc in DCM to afford (R)-N-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)-2-(trifluoromethyl)pyrrolidine-1-sulfonamide (0.12 g, 75%, 72% purity) as an off-white solid: LC/MS (Table 1, Method a) Rt=2.79 min; MS m/z: 611 (M+H)+.

reactant | N-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)-2-oxooxazolidine-3-sulfonamide | 0.261 mmol, 0.200 g | C[C@@H]1C[C@@H](C[C@@H]1C1=NC=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NS(=O)(=O)N1C(OCC1)=O | C24H26N6O6S2
reactant | methanamine hydrochloride | Cl.CN
reactant | (1S,2R,4S)-4-acetamido-2-methylcyclopentanecarboxylic acid | C(C)(=O)N[C@H]1C[C@H]([C@H](C1)C(=O)O)C | C9H15NO3
reactant | (R)-2-trifluoromethylpyrrolidine | 0.392 mmol, 0.055 g | FC([C@@H]1NCCC1)(F)F | C5H8F3N
solvent | MeCN | 1.4 mL | CC#N | C2H3N
product | (R)-N-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)-2-(trifluoromethyl)pyrrolidine-1-sulfonamide | 0.12 g | C[C@@H]1C[C@@H](C[C@@H]1C1=NC=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NS(=O)(=O)N1[C@H](CCC1)C(F)(F)F | C26H29F3N6O4S2
